US05763703
The method of carrying out the reaction of zinc with 1,2-dichlorohexafluorocyclobutane in alcohol to obtain hexafluorocyclobutene is well known (G. Fuller and J. C. Tatlow, J. Chem Soc., 3198 (1961)).

reactant | 1,2-dichlorohexafluorocyclobutane | ClC1(C(C(C1(F)F)(F)F)(Cl)F)F | C4Cl2F6
catalyst | zinc | [Zn] | Zn
product | hexafluorocyclobutene | FC1(C(C(=C1F)F)(F)F)F | C4F6
